US07473797B2
5-Pyridin-3-yl-pent-2-en-4-ynoic acid ethyl ester (Table 2, entry 15):
The modified procedure was used to convert 3-Ethynyl-pyridine and (Z)-ethyl-3-iodoacrylate to the title product in 12 hours. Purification by flash chromatography (30% ethyl acetate in hexane as the eluent) gave the analytically pure product as a light yellow oil (200 mg, 51% yield). 1H NMR (400 MHz, CDCl3) δ 8.76 (s, 1H), 8.57-8.55 (dd, J=4.9, 1.5, 1H), 7.82-7.79 (td, J=7.8, 1.8, 1H), 7.29-7.26 (m, 1H), 6.38-6.35 (d, J=11.4, 1H), 6.21-6.18 (d, J=11.4, 1H), 4.29-4.23 (q, J=7.1, 2H), 1.34-1.31 (t, J=7.1, 3H). 13C NMR (100 MHz, CDCl3) δ 164.32, 152.25, 149.13, 138.58, 129.22, 122.86, 121.80, 119.68, 96.97, 89.03, 60.34, 14.08. Anal. Calcd. for C12H11NO2: C, 71.63; H, 5.51; N, 6.96; Found C, 71.77; H, 5.64; N, 6.73.

reactant | 3-Ethynyl-pyridine | C(#C)C=1C=NC=CC1 | C7H5N
reactant | (Z)-ethyl-3-iodoacrylate | C(C)OC(\C=C/I)=O | C5H7IO2
product | 5-Pyridin-3-yl-pent-2-en-4-ynoic acid ethyl ester | C(C)OC(C=CC#CC=1C=NC=CC1)=O | C12H11NO2
